Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim
 
Attending: ___.
 
Chief Complaint:
Fever
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with history of dementia presented with altered 
mental status, fever, vomiting and lethargy.  

In the ED, initial vitals were 101 95 192/65 18 98% 3L.
-PE: loud diffuse systolic ejection murmur. AAOX self and 
location. Follows commands selectively. Non focal neurological 
exam.
-Labs notable for leukocytosis w/ left shift, Transaminitis w/ 
bilirubinemia.
-CXR was done
-CT a/p was done for elevated LFTs/tbili
-She was given flagyl, vanco, and levaquin
-Full Code per graddaughter. She will bring living will in AM
Most Recent Vitals: 98.4 94 18 118/46 97% 2l.

Spoke to patient's daughter who reports patient's memory is poor 
but she can hold a conversation.  She recognizes most people 
unless she hasn't seen family memebers in a long time.  She 
feeds herself, is mobile and goes down to dining room herself.  

On arrival to the MICU, she is comfortable and reports achy 
bilateral hip pain.  She reports chronic abdominal and back pain 
unchanged from prior. 

 
Past Medical History:
- Dementia
- Arthritis  
- Sjogrens  
- Cataracts  
- Bleeding ulcer  
- Narrow complex tachycardia: ___, reverted to sinus, on 
toprol.  
- L2-L3 compression fractures  
- Anterior abdominal wall fat-containing hernia and right 
inguinal hernia
 
Social History:
___
Family History:
Mother/Father with CAD.

 
Physical Exam:
Admission:
Vitals: 98.2 76 100/34 17 97% on 2L
General: Alert, oriented to self and hospital, no acute distress 
 
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, ___ SEM best heard over RUWB
Lungs: CTAB, no wheezes, rales, ronchi  
Abdomen: +BS, soft, non-distended, tender over epigastrium and 
umbilicus, pain with attempt at reduction of umbilical hernia, 
no peritoneal signs 
GU: +foley  
Ext: wwp, 2+ pulses, no clubbing, cyanosis or edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

Discharge:
Vitals: T: 97.7 BP: 144/70 P: 70 R: 18 O2: 97% on RA   
General: Alert, oriented to self, comfortable, no acute 
distress, sleeping  
HEENT: Sclera anicteric, MMM  
Neck: Supple. No LAD.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
ejection murmur heard best at RUSB, no rubs, gallops  
Abdomen: Soft, protuberant, non-distended, nontender, bowel 
sounds present 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
ADMISSION LABS:
___ 10:30PM BLOOD WBC-18.6*# RBC-4.54 Hgb-11.8* Hct-36.2 
MCV-80* MCH-25.9* MCHC-32.5 RDW-16.8* Plt ___
___ 10:30PM BLOOD Neuts-93.7* Lymphs-2.9* Monos-3.1 Eos-0.2 
Baso-0.1
___ 05:49AM BLOOD ___ PTT-31.3 ___
___ 09:15PM BLOOD Glucose-124* UreaN-13 Creat-0.6 Na-133 
K-3.7 Cl-96 HCO3-22 AnGap-19
___ 09:15PM BLOOD ALT-599* AST-788* AlkPhos-209* 
TotBili-2.6*
___ 10:30PM BLOOD DirBili-1.1*
___ 09:15PM BLOOD Lipase-3582*
___ 05:49AM BLOOD Lipase-1236*
___ 09:15PM BLOOD proBNP-1234*
___ 09:15PM BLOOD Albumin-4.0 Calcium-9.5 Phos-3.2 Mg-2.0
___ 05:49AM BLOOD Triglyc-65 HDL-51 CHOL/HD-2.7 LDLcalc-72
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:15PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:15PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-TR
___ 08:15PM URINE RBC-3* WBC-2 Bacteri-MOD Yeast-NONE Epi-0
___ 08:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

DISCHARGE LABS:
___ 05:55AM BLOOD WBC-12.3* RBC-4.65 Hgb-12.0 Hct-36.7 
MCV-79* MCH-25.9* MCHC-32.8 RDW-17.2* Plt ___
___ 05:55AM BLOOD Neuts-68.8 Lymphs-17.4* Monos-9.9 Eos-3.6 
Baso-0.2
___ 05:55AM BLOOD Plt ___
___ 04:14AM BLOOD ___ PTT-48.6* ___
___ 05:55AM BLOOD Glucose-130* UreaN-9 Creat-0.4 Na-135 
K-3.9 Cl-101 HCO3-24 AnGap-14
___ 05:55AM BLOOD ALT-92* AST-26 AlkPhos-108* TotBili-0.5
___ 05:55AM BLOOD Lipase-425*
___ 05:55AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.8
___ 05:49AM BLOOD Triglyc-65 HDL-51 CHOL/HD-2.7 LDLcalc-72

MICRO:
___ 8:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 9:00 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 
      ESCHERICHIA COLI.    SECOND STRAIN.  FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------     8 S        8 S
AMPICILLIN/SULBACTAM--     4 S        4 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----       S          S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___ 9:30AM. 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ 9:15 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S).

Blood cultures ___ and ___: Pending (NGTD).

MRSA SCREEN (Final ___:    No MRSA isolated. 

CT A/P:
1.  Prominent common bile duct measuring up to 1 cm, similar 
from prior.  
Mildly increased intrahepatic biliary ductal dilatation.  No 
clear distal 
obstructing lesion is identified. 
2.  No intra-abdominal fluid collection to suggest abscess 
formation.  No 
ascites. 
3.  Appendix not clearly visualized; however, no secondary signs 
of acute 
appendicitis.  
4.  Sigmoid diverticulosis without signs of acute 
diverticulitis.   
5.  Cecum containing right inguinal hernia without evidence of 
obstruction, unchanged from prior.   
6.  Stable severe compression deformities of the L2 and L3 
vertebral bodies. 

CXR: 1.  Bibasilar opacities concerning for pneumonia in this 
patient with fever and altered mental status, though atelectasis 
is also possible. 
2.  Probable small left pleural effusion. 

RUQ u/s ___: FINDINGS: There are no focal hepatic lesions.  
There is no intra- or extra-hepatic biliary dilation with the 
common bile duct measuring between 6 and 8 mm.  There is no 
evidence of obstruction, stones or masses in the CBD.  
Gallbladder is normal without stones. 
  
Spleen is normal in size measuring 7 cm.  The left kidney 
measures 10.3, the right kidney measures 10.2 cm without 
evidence of hydronephrosis, stones, or masses.  The portal vein 
is patent with normal hepatopetal flow.  The abdominal aorta and 
IVC are normal. 
  
IMPRESSION: Normal CBD and no evidence of gallstones. 

 
Brief Hospital Course:
___ yo female with history of dementia who reportedly had fever 
and altered mental status at her nursing home found to have pan 
sensitive E. Coli septicemia likely from a biliary source. 

# E. Coli Septicemia likely secondary to Cholangitis: Patient 
noted on initial blood cultures to have pan-sensitive E coli. 
She was initially started on Unasyn to cover likely biliary 
source, transitioned to ceftriaxone and then PO cefpodoxime with 
plan for total 14 day course (on day 5 of 14 on day of 
discharge). Likely biliary source of bacteria; initial concern 
for urinary source given GNR in urine, but later grew out 
pan-sensitive Klebsiella in urine. Most likely source of 
septicemia is cholangitis given initial intrahepatic ductal 
dilitation and CBD dilitation on CT; resolved by day prior to 
discharge per RUQ ultrasound. No evidence of stones in the 
gallbladder on day prior to discharge; no evidence of 
obstructive mass on imaging, and given the resolution of the 
symptoms, she likely had a transient obstruction from a stone 
that has since passed. The patient improved clinically and her 
LFTs and white count trended down, with WBC 12 on day of 
discharge.
.
# Pancreatitis: Patient with abdominal pain, elevated lipase, 
and dusky stranding around pancreas on CT scan on admission. 
Bisap score was 3 given age, SIRS criteria (fever and 
leukocytosis), and pleural effusion.  She was mildly 
hemoconcentrated with elevated hct and dry on exam.  Most likely 
cause of pancreatitis is gallstones given prominent CBD 
(although size normal for age) and intrahepatic ductal 
dilatation, though CBD diameter stable from previous imaging and 
resolved on RUQ u/s on day prior to discharge. No clear inciting 
medications, normal ___, and no EtOH. No evidence of malignancy 
causing obstruction based on CT scan, and symptoms resolved 
without intervention making persistant obstruction unlikely.  
Considered ERCP but felt risk outweighed potential benefit given 
rapid improvement with antibiotics and conservative management.  
She was initially managed conservatively with NPO, IVF, and diet 
was advanced which she tolerated. On day of discharge, abdominal 
pain resolved and all labs trending towards normal.
.
# HTN: The patient's SBP was quite labile, ranging from 100 on 
admission to 190 on the floor. Had been on metoprolol succinate 
12.5 mg daily which was held in the ICU given septicemia. 
Restarted on metoprolol succinate 25 mg daily on discharge. 
.
# Bacteruria: Patient's urine grew pan-sensitive Klebsiella. No 
urinary symptoms. Likely asymptomatic bacturia, not source of 
septicemia; covered by cefpodoxime.
.
# Umbilical hernia: Mildly tender but reducible. No signs of 
obstruction, strangulation, or incarceration. Initially elevated 
lactate, now trended down and within normal limits on discharge.
.
# Dementia: Granddaughters report she is at her baseline. 
Initially held donepizil, then later restarted.
.
# Sjogrens: Stable. Continued artificial tears.
.
# Code status: Per extensive discussion with granddaughter, 
patient now DNR/DNI.

# Transitions:
1) Blood cultures pending from ___ and ___
2) Finish 14-day course of cefpodoxime 400 mg BID, to be 
completed ___
3) Monitor blood pressure, may benefit from different 
antihypertensive medications given labile blood pressure
4) Consider RUQ ultrasound or MRCP as outpatient if develops 
abdominal pain in the future
 
Medications on Admission:
1. Vitamin D 1,000 unit Capsule daily
2. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 

3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) daily
4. Metoprolol succinate 25 mg Tablet Sig: 0.5 Tablet PO daily
5. Multivitamin Capsule Sig: One (1) Capsule PO once a day.  
6. Oxycodone 5 mg Capsule Sig: 2 Capsules PO BID 
7. Calcium carbonate-vit D3-min 600 mg calcium- 400 unit Tablet 
bid
8. Glucosamine-chondroitin 500-400 mg Tablet (2) Tablet bid
10. Alendronate 70 mg Tablet Sig: One (1) Tablet PO every ___
11. Miralax 17 gram/dose Powder Sig: One (1) packet PO tid 
12. Artificial Tears  Drops Sig: ___ drop Ophthalmic tid prn
13. Cranberry 1 tab daily
 
Discharge Medications:
1. Artificial Tears ___ DROP BOTH EYES PRN irritation 
2. Donepezil 10 mg PO HS 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO TID:PRN constipation 
7. Vitamin D 1000 UNIT PO DAILY 
8. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 9 Days 
Last Day ___ 
RX *cefpodoxime 200 mg 2 Tablet(s) by mouth twice a day Disp 
#*36 Tablet Refills:*0
9. Miconazole Powder 2% 1 Appl TP PRN rash 
RX *Anti-Fungal 2 % Please apply to rash Four times a day Disp 
#*1 Bottle Refills:*0
10. Alendronate Sodium 70 mg PO QMON 
11. calcium carbonate-vitamin D3 *NF* 600 mg calcium- 200 unit 
Oral bid 
12. glucosamine-chondroitin *NF* 500-400 mg Oral bid 
13. OxycoDONE (Immediate Release)  ___ mg PO BID:PRN pain 
This medication was held during hospitalization 
14. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute Cholangitis
Septicemia (blood stream infection)
Pancreatitis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___. You were 
admitted for abdominal pain and fever. You were found to have a 
bacteria called E. coli in your blood, originally from an 
infection of your gall bladder and bile ducts. You will continue 
an antibiotic called cefpodoxime for a total duration of 14 
days. 

See attached for any medication changes.
 
Followup Instructions:
___